US06087380
c) 2-Methoxymethyl-benzothiazole-5-carboxylic acid
A mixture of 2.1 g (8.36 mMol) of ethyl 2-methoxymethyl-benzothiazole-5-carboxylate and 16 ml of 2N sodium hydroxide solution was stirred into 60 ml ethanol for 1 hour at room temperature. Then the alcohol was distilled off, the crude product was taken up in 20 ml water, washed with 50 ml diethylether and the aqueous phase was acidified with concentrated hydrochloric acid whilst being cooled with ice. The pinkish-beige compound thereby precipitated was suction filtered, washed with water and dried. Yield: 1.6 g (86% of theory), Rf value: 0.12 (silica gel; dichloromethane/ethanol=29:1)

reactant | ethyl 2-methoxymethyl-benzothiazole-5-carboxylate | 8.36 mMol, 2.1 g | COCC=1SC2=C(N1)C=C(C=C2)C(=O)OCC | C12H13NO3S
reactant | sodium hydroxide | 2N, 16 ml | [OH-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-Methoxymethyl-benzothiazole-5-carboxylic acid | COCC=1SC2=C(N1)C=C(C=C2)C(=O)O | C10H9NO3S
